US08198296B2
To a solution of 2-bromofuran (0.11 g, 0.74 mmol) in THF (3 mL) at −78° C. was added n-BuLi solution (2.5 M solution in hexanes, 0.30 mL, 0.75 mmol) and the mixture was stirred for 1 h. A solution of N-methoxy-N-methyl-3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]oct-6-ene-7-carboxamide (0.20 g, 0.65 mmol) in THF (2 mL) was added, and the mixture was warmed to ambient temperature over 8 h. The reaction was quenched with water (0.2 mL), diluted with of ethyl (20 mL) acetate, dried over anhydrous sodium sulfate and concentrated by rotary evaporation. The crude product was purified on silica gel column chromatography to obtain 0.10 g of 2-furanyl(3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]oct-6-en-7-yl)methanone and 0.06 g of recovered starting material. A sample of 2-furanyl(3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]oct-6-en-7-yl)methanone (0.050 g, 0.16 mmol) was dissolved in dichloromethane (3 mL), treated with TFA (2.0 mL), and stirred at ambient temperature for 1 h. The volatiles were evaporated, and the product was vacuum dried to obtain 0.047 g of 2-furanyl(3-azabicyclo[3.3.0]oct-6-en-7-yl)methanone trifluoroacetate (1H NMR (CD3OD, 300 MHz): δ 7.81-7.80 (m, 1H), 7.38-7.36 (m, 1H), 6.91-6.88 (m, 1H), 6.65 (dd, J=3.66, 1.71 Hz), 3.95-3.86 (m, 1H), 3.56-3.40 (m, 3H), 3.27-3.16 (m, 1H), 3.14-3.02 (m, 2H), 2.77-2.68 (m, 1H); MS (m/z): 204 (M+1)). This material exhibited Ki values at rat and human α4β2 of 8 nM and 2 nM respectively and did not pass HTS for α7.

reactant | 2-bromofuran | 0.74 mmol, 0.11 g | BrC=1OC=CC1 | C4H3BrO
reactant | n-BuLi | 0.75 mmol, 2.5 M, 0.30 mL | [Li]CCCC
reactant | N-methoxy-N-methyl-3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]oct-6-ene-7-carboxamide | 0.65 mmol, 0.20 g | CON(C(=O)C1=CC2CN(CC2C1)C(=O)OC(C)(C)C)C | C15H24N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-furanyl(3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]oct-6-en-7-yl)methanone | 0.10 g | O1C(=CC=C1)C(=O)C1=CC2CN(CC2C1)C(=O)OC(C)(C)C | C17H21NO4
